US07700628B2
D. 5-Chloro-N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(piperidin-3-ylmethoxy)-benzoylamino]benzamide hydrochloride
Using methods substantially equivalent to those described in Example 60-I and J, 5-chloro-N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(piperidin-3-ylmethoxy)-benzoylamino]benzamide trifluoroacetate (150 mg, 0.20 mmol, 6%) was prepared from 2-(N-tert-butoxycarbonylpiperidin-3-yl)-4-isopropylmethoxybenzoic acid and N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide. This product was subjected to reverse phase HPLC to obtain 60 mg of the title compound as the hydrochloride salt.

reactant | 5-chloro-N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(piperidin-3-ylmethoxy)-benzoylamino]benzamide trifluoroacetate | 0.20 mmol, 150 mg | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=C(C=C(C=C1)C(C)C)OCC1CNCCC1)=O
reactant | 2-(N-tert-butoxycarbonylpiperidin-3-yl)-4-isopropylmethoxybenzoic acid | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=C(C(=O)O)C=CC(=C1OC)C(C)C | C21H31NO5
reactant | N-(5-chloropyridin-2-yl)-2-amino-5-chlorobenzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)Cl)N)=O | C12H9Cl2N3O
product | 5-Chloro-N-(5-chloropyridin-2-yl)-2-[4-isopropyl-2-(piperidin-3-ylmethoxy)-benzoylamino]benzamide hydrochloride | 60 mg | Cl.ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(C1=C(C=C(C=C1)C(C)C)OCC1CNCCC1)=O | InChI=1S/C28H30Cl2N4O3.ClH/c1-17(2)19-5-8-22(25(12-19)37-16-18-4-3-11-31-14-18)27(35)33-24-9-6-20(29)13-23(24)28(36)34-26-10-7-21(30)15-32-26;/h5-10,12-13,15,17-18,31H,3-4,11,14,16H2,1-2H3,(H,33,35)(H,32,34,36);1H
